Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest Pain/STEMI Transfer
 
Major Surgical or Invasive Procedure:
Coronary angiography ___
 
History of Present Illness:
Mr. ___ is a ___ yo M with ___ CVA and HTN initially 
presenting with chest pain to ___. He described intermittent 
exertional chest pain one month prior to admission. Around 
midnight ___, patient experienced sudden onset chest pain with 
radiation to bilateral shoulders, awakening him from sleep.  He 
denied any pleuritic discomfort, leg swelling, orthopnea, or 
PND. He subsequently presented to ___ ED for further 
evaluation.

At ___ ED, he continued to experience constant chest pain and 
had EKG demonstrating STE I, aVL with reciprocal changes STD II, 
III, aVF and TWI V3-V4; troponin 0.1. He received full dose 
aspirin, 180mg Ticagrelor, 4000U heparin and Nitroglycerin SL x 
3, followed by Fentanyl 50mg x 2 for persistent pain. Case was 
discussed with ___ interventional cardiology and patient was
soon transferred to ___ with cardiac catheterization lab 
activated. Cath was done via R radial. Diag and LAD occluded.

Diag opened first and stented, but developed chest pain and ST 
elevations, so LAD thought to be acute and was also stented. 2 
stents in ___ diag, 1 in LAD, circ and RCA patent. He was loaded 
with Ticagrelor at OSH. TR band was place and heparin was off 
prior to transfer to CCU. He was loaded with ASA. 130cc dye
given, also received fluids in procedure. 

On arrival to the CCU, he is still having some dull residual 
chest pain.  He denies any shortness of breath, n/v, 
palpitations.
 
Past Medical History:
- CVA ___ years ago 
- HTN, not on medications for 6 months
- HLD
- Hernia repair
 
Social History:
___
Family History:
Mother and father - HTN
Mother - ___ stenosis
Father - ___ dependent
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION  
==============================
VS:  REVIEWED IN METAVISION
GENERAL: Well developed, well nourished in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic, atraumatic. Sclera anicteric. PERRL. EOMI. 

NECK: Supple. JVP not elevated.  
CARDIAC: Normal rate, regular rhythm. Grade ___ holosystolic 
murmur in apex, rubs, or gallops.  
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No adventitious breath 
sounds.  
ABDOMEN: Soft, non-tender, non-distended. No palpable 
hepatomegaly or splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  Right TR band in place without hematoma. Good 
distal pulses
SKIN: No significant lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  
NEURO: AAOx3 

DISCHARGE PHYSICAL EXAM
=======================
VS: T 98.8F, HR 75, RR 20, O2 sat 96% on RA, BP 123/78
Weight: 123/78
General: well appearing elderly gentleman, siting up in bed and 
ambulating hallways steadily, NAD
Neuro: A&O x3, grossly intact
CV: S1, S2, no JVP noted 
Resp: LSCTB, non-labored
GI: +BS, soft, NT, ND
Extremities: WWP, no edema, +2 palpable peripheral pulses.
Access site: RRA with dsg CDI, no hematoma, no oozing.
 
Pertinent Results:
ADMISSION LABS
==============
___ 06:12AM BLOOD WBC-10.1* RBC-4.90 Hgb-15.2 Hct-43.9 
MCV-90 MCH-31.0 MCHC-34.6 RDW-12.8 RDWSD-41.6 Plt ___
___ 06:12AM BLOOD Neuts-84.4* Lymphs-10.1* Monos-4.4* 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-8.49* AbsLymp-1.02* 
AbsMono-0.44 AbsEos-0.01* AbsBaso-0.03
___ 06:12AM BLOOD ___ PTT-150* ___
___ 06:12AM BLOOD Glucose-188* UreaN-9 Creat-0.8 Na-140 
K-4.1 Cl-104 HCO3-18* AnGap-18
___ 06:12AM BLOOD ALT-54* AST-178* AlkPhos-45 TotBili-0.9
___ 06:12AM BLOOD cTropnT-3.60*
___ 11:25AM BLOOD cTropnT-3.71*
___ 06:12AM BLOOD Calcium-8.9 Phos-2.2* Mg-1.9

REPORTS
=======
Cardiac catheterization ___
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel. This vessel bifurcates into the Left Anterior 
Descending and Left Circumflex systems.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel. There is a 100% stenosis in the 
proximal segment.
The Septal Perforator, arising from the proximal segment, is a 
very small caliber vessel. The Diagonal, arising from the 
proximal segment, is a medium caliber vessel. There is a 100% 
stenosis in the ostium.
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel. The ___ Obtuse Marginal, arising from the 
proximal segment, is a medium caliber vessel. The ___ Obtuse 
Marginal, arising from the mid segment, is a medium caliber 
vessel.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a large caliber vessel. The Right Posterior Descending Artery, 
arising from the distal segment, is a medium caliber vessel. The 
Right Posterolateral Artery, arising from the distal segment, is 
a medium caliber vessel.
- DES x2 to D1
- DES to LAD

TTE ___
The left atrial volume index is normal. There is mild symmetric 
left ventricular hypertrophy with a normal cavity size. There is 
mild regional left ventricular systolic dysfunction with 
hypokinesis of the distal anterior wall and apex (see schematic) 
and preserved/normal contractility of the remaining segments. No 
thrombus or mass is seen in the left ventricle. Quantitative 3D 
volumetric left ventricular ejection fraction is 68 % (normal 
54-73%). Left ventricular cardiac index is normal (>2.5
L/min/m2). There is no resting left ventricular outflow tract 
gradient. Tissue Doppler suggests a normal left ventricular 
filling pressure (PCWP less than 12mmHg). Normal right 
ventricular cavity size with normal free wall motion. Tricuspid 
annular plane systolic excursion (TAPSE) is normal. The aortic 
sinus is mildly dilated with moderately dilated ascending aorta. 
The aortic arch is mildly dilated with a mildly dilated 
descending aorta. The aortic valve leaflets (3) appear 
structurally normal. There is no aortic valve stenosis. There is 
trace aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. There is 
trivial mitral regurgitation. The pulmonic valve leaflets are
normal. The tricuspid valve leaflets appear structurally normal. 
There is mild [1+] tricuspid regurgitation. The estimated 
pulmonary artery systolic pressure is high normal. There is no 
pericardial effusion.
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
mild regional systolic dysfunction most consistent with single 
vessel coronary artery disease (distal LAD distribution). 
Dilated thoracic aorta.
CLINICAL IMPLICATIONS: The patient has a moderately dilated 
ascending aorta. Based on ___ ACCF/AHA Thoracic Aortic 
Guidelines, if not previously known or a change, a follow-up 
echocardiogram is suggested in 6 months; if previously known and 
stable, a follow-up echocardiogram is suggested in ___ year.
 
Brief Hospital Course:
___ year old M with PMH CVA and HTN initially presenting with 
chest pain, found to have anterior STEMI s/p DES x2 to D1 and 
DES to LAD.

#CORONARIES:  100% occlusion diag, LAD s/p stenting. RCA and 
Circ patent
#PUMP:  LVEF 68%. 
#RHYTHM:  Sinus

ACUTE ISSUES:  
=============  
#STEMI
Patient presented with exertional chest pain which ultimately 
progressed to chest pain at rest. He presented to OSH, was found 
to have STEMI (STE I, aVL with reciprocal changes STD II, III, 
aVF and TWI V3-V4), and was transferred here for angiography. 
Cor angio showed 100% occluded D1 and LAD s/p DES x2 to D1 and 
DES to LAD. Troponins peak 3.71, ECG without ischemia prior to 
discharge.
Had been prescribed Rosuvastatin, HCTZ, Spironolactone at home, 
though had not taking for past 6 months. Here, he was started on 
ASA 81mg daily, loaded on ticagrelor and continued on 90mg BID, 
atorvastatin 80mg QHS, metoprolol tartrate 12.5mg q6h, which was 
transitioned to metoprolol succinate 50mg daily on discharge, 
and lisinopril 5mg daily. TTE was obtained which showed EF 68%, 
mild LVH with mild regional systolic dysfunction consistent with 
single vessel (distal LAD distribution) CAD. Patient 
hemodynamics remained stable, without arrhythmia on telemetry, 
ambulatory without any symptoms.
- ___ consulted: Outpatient cardiac rehab referral on discharge, 
once medically cleared by Cardiologist
- Follow up with PCP ___ next week, per office, 
will need PCP referral to see local Cardiologist. Patient would 
prefer in current office or ___, closer to home. 

CHRONIC ISSUES:
===============
#HTN
Started metoprolol and ACEi, as above

#GERD
Continued home PPI 

TRANSITIONAL ISSUES
===================
[ ] Follow with PCP, ___, next week on ___ 
[ ] The patient has a moderately dilated ascending aorta. Based 
on ___
ACCF/AHA Thoracic Aortic Guidelines, if not previously known or 
a change, a follow-up echocardiogram is suggested in 6 months; 
if previously known and stable, a follow-up echocardiogram is 
suggested in ___ year.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Lisinopril 5 mg PO DAILY  
4.  Metoprolol Succinate XL 50 mg PO DAILY  
5.  TiCAGRELOR 90 mg PO BID to prevent stent thrombosis  
6.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
STEMI
Coronary artery disease s/p PCI x 3
Hypertension
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were found to have a heart attack (ST elevation Myocardial 
Infarction). You were admitted following your cardiac 
catheterization in which three drug coated stents were placed to 
open blockages in your Left anterior descending (LAD) and 
Diagonal coronary arteries. You had an echocardiogram, which 
showed that your heart pump function was normal. 

Instructions regarding activity restrictions and care of the 
right wrist access site are included with your discharge 
information.  

You will be started on 5 new medications after your heart 
attack. You should not stop any of these medications, without 
talking to your heart doctor first. If you are getting low on a 
supply, please call your Primary Doctor or your Cardiologist's 
office for refills.  
- START Aspirin 81mg daily, lifelong.  
- START Ticagrelor (Brilinta) 90mg twice a day, you should take 
this for a minimum of one year and ONLY stop when told by a 
cardiologist specifically.  
- START Atorvastatin 80mg daily (best absorbed when taken in the 
evening), this medication not only reduces cholesterol, but has 
been shown to help decrease risk of heart attack in the future 
for people who have coronary artery (heart) disease.  
- START Metoprolol succinate 50mg once daily. This medication 
slows the heart down and can lower blood pressure. It helps 
reduce the amount of work the heart has to do, and can help to 
reduce risk of future heart attack.  
- START Lisinopril 5mg daily. This medication helps to reduce 
blood pressure and decrease the amount of resistance that the 
heart needs to pump against, which decreases strain on the heart 
muscle.

It is very important to take all of your heart healthy 
medications. In particular, Aspirin and Ticagrelor (Brilinta) 
keep the stents in the vessels of the heart open and help reduce 
your risk of having a future heart attack. If you stop these 
medications or miss ___ dose, a blood clot could form in your 
heart stent which could cause a life threatening heart attack. 
Please do not stop taking either medication without taking to 
your heart doctor, even if another doctor tells you to stop the 
medications.
  
It is strongly recommended that you attend a cardiac rehab 
program in the near future. A referral form was provided to you 
that lists the locations of these programs. Please bring this 
with you to your follow up visit with your cardiologist, and 
they will inform you when it is safe to begin a program.  
 
If you have any urgent questions that are related to your 
recovery from your hospitalization or are experiencing any 
symptoms that are concerning to you and you think you may need 
to return to the hospital, please call the ___ HeartLine at 
___ to speak to a cardiologist or cardiac nurse 
practitioner. If you develop any chest pain that does not go 
away with rest, please call ___.  

Your ___ Cardiac Care Team  

 
Followup Instructions:
___